US07056952B1
0.0406 g (1.08 mmol) of 1-(2,4-dimethoxyphenyl)-2-(3′,4′-dimethoxyphenyl)-1-oxo-3-ethoxy-propane were reacted with boron tribromide (10.84 mmol) in 22 mL dichloromethane for three days by the method of Bannwart C. et al., Finn. Chem. Lett. 11 120 (1984). Workup and chromatography of the reaction product afforded 1-(2,4-dihydroxyphenyl)-2-(3′,4′-dihydroxyphenyl)-1-oxo-2-propene as the minor product and 1-(2,4-dihydroxy)-2-(3′,4′-dihydroxyphenyl)-1-oxo-3-bromo-propane as the major product.

reactant | 1-(2,4-dimethoxyphenyl)-2-(3′,4′-dimethoxyphenyl)-1-oxo-3-ethoxy-propane | 1.08 mmol, 0.0406 g | COC1=C(C=CC(=C1)OC)C(C(COCC)C1=CC(=C(C=C1)OC)OC)=O | C21H26O6
reactant | boron tribromide | 10.84 mmol | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | 1-(2,4-dihydroxyphenyl)-2-(3′,4′-dihydroxyphenyl)-1-oxo-2-propene | OC1=C(C=CC(=C1)O)C(C(=C)C1=CC(=C(C=C1)O)O)=O | C15H12O5
